US08877782B2
N-(4-Fluoro-phenyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (100 mg, 0.32 mmol) was converted, using 4-fluoroaniline (1 M in DMF) instead of methylamine, to the title compound (109 mg, 84%) which was obtained as a white solid. MS: m/e=404.4 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.32 mmol, 100 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 4-fluoroaniline | 1 M | FC1=CC=C(N)C=C1 | C6H6FN
product | N-(4-Fluoro-phenyl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 109 mg, 84% | FC1=CC=C(C=C1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C23H18FN3O3
